US03953476
A solution of 3-amino-4-chloro-5-methylsulfinylbenzoic acid (4.67 g.; 0.02 mole) in n-butanol (150 ml.) containing concentrated sulfuric acid (2 ml.) is refluxed for 48 hours in a Soxhlet extractor containing type 4A molecular sieves (100 g.). The solvent is distilled at reduced pressure and the residue is treated with water (50 ml.), 10N sodium hydroxide (20 ml.) and ethanol (20 ml.) and refluxed for 1 hour to hydrolyze any butyl ester which may have formed. The reaction mixture is cooled and acidified with dilute hydrochloric acid to give 3-n-butylamino-4-chloro-5-methylsulfinylbenzoic acid which melts at 158° C. after recrystallization from ethanol and water.

reactant | 3-amino-4-chloro-5-methylsulfinylbenzoic acid | 0.02 mole, 4.67 g | NC=1C=C(C(=O)O)C=C(C1Cl)S(=O)C | C8H8ClNO3S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 3-n-butylamino-4-chloro-5-methylsulfinylbenzoic acid | C(CCC)NC=1C=C(C(=O)O)C=C(C1Cl)S(=O)C | C12H16ClNO3S
